US08426447B2
(S)-2-Amino-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol (0.075 g, 0.217 mmol) and cesium carbonate (0.106 g, 0.325 mmol) were dissolved in DMF (0.7 mL) and stirred for five minutes before being cooled in an ice bath. (Tetrahydrofuran-3-yl)methyl trifluoromethanesulfonate (0.056 g, 0.238 mmol) was dissolved in DMF (0.15 mL) and added dropwise to the reaction, which was stirred for one hour. An additional equivalent of triflate was added and the reaction was stirred for five days. The reaction was cooled to 0° C. and 0.5 eq. of triflate was dissolved in 0.1 mL of DMF and added dropwise to the reaction. The reaction was stirred for two days. The reaction was diluted with EtOAc and washed with water. The aqueous layer was extracted with EtOAc, and the combined organic layers were washed with brine, dried with sodium sulfate, filtered, and concentrated. The material was purified via column chromatography (RediSep 40 g, gradient elution 0-10% MeOH:DCM) but the material was impure so the material was repurified via Gilson HPLC (10-90% MeCN:H2O). The product fractions were partitioned between DCM and saturated sodium bicarbonate solution. The aqueous layer was extracted with DCM, and the combined organic layers were dried with sodium sulfate, filtered, and concentrated to afford (S)-2′-(pyrimidin-5-yl)-7′-((tetrahydrofuran-3-yl)methoxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine as a white solid. LC-MS MH+ 431.4

reactant | (S)-2-Amino-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol | 0.217 mmol, 0.075 g | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)O)C=2C=NC=NC2)N1 | C19H14N4O3
reactant | cesium carbonate | 0.325 mmol, 0.106 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (Tetrahydrofuran-3-yl)methyl trifluoromethanesulfonate | 0.238 mmol, 0.056 g | FC(S(=O)(=O)OCC1COCC1)(F)F | C6H9F3O4S
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
reactant | triflate | 0.5 eq. | [O-]S(=O)(=O)C(F)(F)F
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-2′-(pyrimidin-5-yl)-7′-((tetrahydrofuran-3-yl)methoxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | N1=CN=CC(=C1)C1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)OCC1COCC1)N=C(OC3)N | C24H22N4O4
